US05962458
A mixture of 2-amino-4-benzyloxy-5-methoxybenzamide (10 g, 0.04 mol), (J. Med. Chem. 1977, vol 20, 146-149), and Gold's reagent (7.4g, 0.05 mol) in dioxane (100 ml) was stirred and heated at reflux for 24 hours. Sodium acetate (3.02 g, 0.037 mol) and acetic acid (1.65 ml, 0.029 mol) were added to the reaction mixture and it was heated for a further 3 hours. The mixture was evaporated, water was added to the residue, the solid was filtered off, washed with water and dried (MgSO4). Recrystallisation from acetic acid gave 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (8.7 g, 84%).

reactant | 2-amino-4-benzyloxy-5-methoxybenzamide | 0.04 mol, 10 g | NC1=C(C(=O)N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H16N2O3
reactant | Gold's reagent | 0.05 mol, 7.4g | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | Sodium acetate | 0.037 mol, 3.02 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 0.029 mol, 1.65 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 8.7 g, 84% | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
